US04898874
3-(2,4-Dichlorophenyl)-2,1-benzisoxazole-7-acetonitrile
To a slurry of 1.8 g (0.028 mole) of potassium cyanide in 80 ml of dimethylsulfoxide at 60° C. was added 9.7 g (0.027 mole) of 7-(bromomethyl)-3-(2,4-dichlorophenyl)-2,1-benzisoxazole. The mixture was heated at 50°-60° C. for 3 hr, poured into 1 liter of water and let stand overnight. The resulting solid was collected by filtration, washed with water and dried to give 7.6 g of crude tan solid. The solid was chromatographed on 160 g of silica gel to give 2.7 g of solid. The solid was recrystallized from carbon tetrachloride (charcoal) and then from acetonitrile to yield 0.7 g (8%) of crystals, m.p. 147°-148° C.

reactant | potassium cyanide | 0.028 mole, 1.8 g | [C-]#N.[K+]
reactant | 7-(bromomethyl)-3-(2,4-dichlorophenyl)-2,1-benzisoxazole | 0.027 mole, 9.7 g | BrCC1=CC=CC2=C(ON=C21)C2=C(C=C(C=C2)Cl)Cl | C14H8BrCl2NO
reactant | water | 1 liter | O | H2O
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 3-(2,4-Dichlorophenyl)-2,1-benzisoxazole-7-acetonitrile | 2.7 g | ClC1=C(C=CC(=C1)Cl)C=1ON=C2C1C=CC=C2CC#N | C15H8Cl2N2O
